US07115596B2
Ethyl 5-chloro-3-[2-(4-chlorophenyl)-1,3-thiazol-5-yl]-5-oxopentanoate
3-[2-(4-chlorophenyl)-1,3-thiazol-5-yl]-5-ethoxy-5-oxopentanoic acid (9.68 mmol) was dissolved in CH2Cl2 (10 mL) and cooled to 0° C. Oxalyl Chloride (2.0M in CH2Cl2; 25 mL) was added slowly. One drop of DMF was added to the reaction mixture. The reaction was warmed to room temperature and stirred for 18 hours. The reaction was concentrated in vacuo to give the crude product.

reactant | 3-[2-(4-chlorophenyl)-1,3-thiazol-5-yl]-5-ethoxy-5-oxopentanoic acid | 9.68 mmol | ClC1=CC=C(C=C1)C=1SC(=CN1)C(CC(=O)O)CC(=O)OCC | C16H16ClNO4S
reactant | Oxalyl Chloride | 2.0M, 25 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | One drop | CN(C)C=O | C3H7NO
product | Ethyl 5-chloro-3-[2-(4-chlorophenyl)-1,3-thiazol-5-yl]-5-oxopentanoate | ClC(CC(CC(=O)OCC)C1=CN=C(S1)C1=CC=C(C=C1)Cl)=O | C16H15Cl2NO3S
